### PR TITLE
[Merged by Bors] - feat(Algebra/Homology): K-projective cochain complexes

### PR DESCRIPTION
**Pull request by joelriou**
We define the notion of K-projective cochain complex in an abelian category, and show that bounded above complexes of projective objects are K-projective. This is the dual results to #31941: the main lemma is obtained by dualising the corresponding lemma for K-injective complexes.
We also dualise the result from #31900: morphisms in the derived category from a K-projective cochain complex identify to homotopy classes of morphisms.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Homology/CochainComplexOpposite.lean [hunk 1]
```diff
@@ -178,4 +178,17 @@ def homotopyOpEquiv {K L : CochainComplex C ℤ} {f g : K ⟶ L} :
...
       homotopyUnop_hom_eq _ (-q) (-p) q p]
 
+lemma exactAt_op {K : CochainComplex C ℤ} {n : ℤ} (hK : K.ExactAt n)
+    (m : ℤ) (hm : n + m = 0 := by lia) :
+    ((opEquivalence C).functor.obj (op K)).ExactAt m := by
+  obtain rfl : n = -m := by lia
+  rw [HomologicalComplex.exactAt_iff' _ (m - 1) m (m + 1) (by simp) (by simp),
+    ← ShortComplex.exact_unop_iff]
+  rwa [HomologicalComplex.exactAt_iff' _ (-(m + 1)) (-m) (-(m - 1)) (by simp; lia)
+    (by simp; lia)] at hK
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/CochainComplexOpposite.lean]:
```suggestion
  rwa [HomologicalComplex.exactAt_iff' _ (-(m + 1)) (-m) (-(m - 1)) (by grind [prev])
    (by grind [next])] at hK
```

File: Mathlib/Algebra/Homology/CochainComplexOpposite.lean [hunk 2]
```diff
@@ -178,4 +178,17 @@ def homotopyOpEquiv {K L : CochainComplex C ℤ} {f g : K ⟶ L} :
...
+
+lemma acyclic_op {K : CochainComplex C ℤ} (hK : K.Acyclic) :
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/CochainComplexOpposite.lean:190]: Maybe naming it `Acyclic.op` would make not dotation available?

File: Mathlib/Algebra/Homology/HomotopyCategory/KProjective.lean [hunk 3]
```diff
@@ -0,0 +1,122 @@
...
+open CategoryTheory Limits HomComplex Preadditive Opposite
+
+variable {C : Type*} [Category C] [Abelian C]
+
+-- TODO (@joelriou): show that this definition is equivalent to the
+-- original definition by Spaltenstein saying that whenever `L`
+-- is acyclic, then `HomComplex K L` is acyclic. (The condition below
+-- is equivalent to the acyclicity of `HomComplex K L` in degree
+-- `0`, and the general case follows by shifting `L`.)
+/-- A cochain complex `K` is K-injective if any morphism `K ⟶ L`
```
Comment (robin-carlier) [inline Mathlib/Algebra/Homology/HomotopyCategory/KProjective.lean]:
```suggestion
/-- A cochain complex `K` is K-projective if any morphism `K ⟶ L`
```

File: Mathlib/Algebra/Homology/CochainComplexOpposite.lean (hunk 2 above)
Comment (joelriou) [reply Mathlib/Algebra/Homology/CochainComplexOpposite.lean:190]: We already have a `Acyclic.op` which does something similar, but only from the acyclicity of `K : HomologicalComplex C c` (e.g. `CochainComplex C ℤ`) to the acyclicity of `K.op : HomologicalComplex Cᵒᵖ c` (e.g. `ChainComplex Cᵒᵖ ℤ`). Here, there is an extra-step going from `ChainComplex Cᵒᵖ ℤ` to `CochainComplex Cᵒᵖ ℤ`.

**Review by robin-carlier — COMMENTED** [review]
Thanks!

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
